US04814344
3-(Dimethylamino)-1-(1,2-dimethyl-1H-indol-3-yl)-1-propanone
A mixture of 1-(1,2-dimethyl-1H-indol-3-yl)-1-ethanone (0.9 g), paraformaldehyde (0.43 g) and dimethylamine hydrochloride (1.2 g) in ethanol (60 ml) was heated at reflux for 18 h, cooled, and the solvent evaporated in vacuo. The residue was partitioned between sodium carbonate (2N; 50 ml) and ethyl acetate (2×50 ml) and the combined organic extracts were dried and evaporated in vacuo to give an oil. This oil was chromatographed eluting with System A to give the title compound, which on standing gave crystals (0.9 g), m.p. 96°-98°.

reactant | 1-(1,2-dimethyl-1H-indol-3-yl)-1-ethanone | 0.9 g | CN1C(=C(C2=CC=CC=C12)C(C)=O)C | C12H13NO
reactant | paraformaldehyde | 0.43 g | C=O | CH2O
reactant | dimethylamine hydrochloride | 1.2 g | Cl.CNC
solvent | ethanol | 60 ml | C(C)O | C2H6O
product | 3-(Dimethylamino)-1-(1,2-dimethyl-1H-indol-3-yl)-1-propanone | CN(CCC(=O)C1=C(N(C2=CC=CC=C12)C)C)C | C15H20N2O
